US06645968B2
N″-cyano-N-(2-fluorophenyl)guanidine
A solution of 2-fluoroaniline and sodium dicyanamide was processed as described in Example 71A to provide the desired product.

reactant | 2-fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-(2-fluorophenyl)guanidine | C(#N)N=C(NC1=C(C=CC=C1)F)N | C8H7FN4
